US07273936B2
A solution of 5-[isocyano-(toluene-4-sulfonyl)-methyl]-benzo[1,3]dioxole (40 mg, 0.127 mmol), 6-methyl-pyridine-2-carbaldehyde (15.4 mg, 0.127 mmol, 1 equiv) and potassium carbonate (26 mg, 0.19 mmol, 1.5 equiv) in methanol (1 mL) was shaken at 70° C. for 2 hours. The reaction mixture was concentrated in vacuo, and resulting residue was partitions between water (1 mL) and methylene chloride (1 mL). The organics were purified by silica gel chromatography (20% acetone in hexane) to provide 2-(4-Benzo[1,3]dioxol-5-yl-oxazol-5-yl)-6-methyl-pyridine as a colorless oil (8 mg, 22%) [LCMS: Rt-2.34 min; M+H=281.2].

reactant | 5-[isocyano-(toluene-4-sulfonyl)-methyl]-benzo[1,3]dioxole | 0.127 mmol, 40 mg | [N+](#[C-])C(C1=CC2=C(OCO2)C=C1)S(=O)(=O)C1=CC=C(C=C1)C | C16H13NO4S
reactant | 6-methyl-pyridine-2-carbaldehyde | 0.127 mmol, 15.4 mg, 1 equiv | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | potassium carbonate | 0.19 mmol, 26 mg, 1.5 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Benzo[1,3]dioxol-5-yl-oxazol-5-yl)-6-methyl-pyridine | 8 mg, 22% | O1COC2=C1C=CC(=C2)C=2N=COC2C2=NC(=CC=C2)C | C16H12N2O3
